US05049544
Into a 500 ml round bottom flask 50 g of methyl 2-cyclohexylpropionate and 70 g of 25% sodium hydroxide were charged. The mixture was stirred at 80° C. for 8 hours. To the reaction mixture 120 g of 20% sulfuric acid was gradually added under ice-cooling to separate a carboxylic acid. The carboxylic acid was extracted with hexane. The mixture obtained was distilled to obtain 42.3 g of 2-cyclohexylpropionic acid having a civet- and animal-like odor (yield: 92%, purity: 99.9%).

reactant | methyl 2-cyclohexylpropionate | 50 g | C1(CCCCC1)C(C(=O)OC)C | C10H18O2
reactant | sodium hydroxide | 70 g | [OH-].[Na+]
reactant | sulfuric acid | 120 g | S(O)(O)(=O)=O | H2O4S
product | 2-cyclohexylpropionic acid | 42.3 g, yield: 92% | C1(CCCCC1)C(C(=O)O)C | C9H16O2
